US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoyl]-4-methoxyaniline
p-Methoxyaniline (0.077 g, 0.626 mmol), triethylamine (0.063 g, 0.626 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.106 g, 0.626 mmol) were added to a methylene chloride solution (10 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoic acid (0.117 g, 0.313 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexane:ethyl acetate=1:2) to obtain the titled compound (0.095 g, 0.198 mmol, 63%).

reactant | p-Methoxyaniline | 0.626 mmol, 0.077 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 0.626 mmol, 0.063 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.626 mmol, 0.106 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoic acid | 0.313 mmol, 0.117 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)C)C)=O | C20H22O7
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoyl]-4-methoxyaniline | 0.198 mmol, 0.095 g, 63% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C1)OC(C)C)C)=O | C27H29NO7
